US04166904
(Z)-(5R)-2-Methoxy-3-(2-phenylacetoxyethylidene)-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
(Z)-(5R)-3-(2-Hydroxyethylidene)-2-methoxy-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (15 mg.) was dissolved in dry diethyl ether (2 ml.) and the solution was stirred and ice-cooled with exclusion of moisture while phenylacetyl chloride (30 mg.) followed by dry pyridine (15 mg.) were added. The mixture was kept at 4° with exclusion of moisture for 15 hours. The mixture was diluted with ethyl acetate (30 ml.) and was washed with 5% sodium chloride solution (10 ml.) and saturated sodium chloride solution (10 ml.). The solution was dried (magnesium sulphate) and the solvent was evaporated under reduced pressure to yield a yellow gum. Chromatography of the gum on silica gel (10 g.) using ethyl acetate/petroleum ether (b.p. 60°-80°) gave the title compound as a colourless gum (17 mg.). [α]D22 =+45.6° (c=1.0, CHCl3). νmax (CHCl3): 1798 (β-lactam C=O), 1730 (ester C=O), 1710 (sh.) (olefinic C=C)cm-1. δ (CDCl3): 2.96 (d, J 16 Hz, 1H, C(6)H), 3.34 (dd, J 16, J' 2 Hz, 1H, C(6)H), 3.36 (s, 3H, OCH3), 3.56 (s, 2H, CH2Ar), 4.60-4.90 (complex, 3H, CH2O and olefinic H), 5.25 (s, 1H, C(2)H), 5.52 (d, J 2 Hz, 1H, C(5)H), 7.22 (s, 5H, Ar-H). m/e: 234 (2%), 229 (C13H11NO3, 13%), 168 (19), 118 (12), 99 (22), 91 (100).

reactant | (Z)-(5R)-3-(2-Hydroxyethylidene)-2-methoxy-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 15 mg | OC\C=C/1\C(N2C(C[C@H]2O1)=O)OC | C8H11NO4
reactant | phenylacetyl chloride | 30 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | pyridine | 15 mg | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-(5R)-2-Methoxy-3-(2-phenylacetoxyethylidene)-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 17 mg | COC/1N2C(C[C@H]2O\C1=C/COC(CC1=CC=CC=C1)=O)=O | C16H17NO5
